US09145415B2
To 4-((4-hydroxy-5-iodopyrimidin-2-yl)amino)benzamide (J11, 1.35 g), phosphorus oxychloride (14 mL) was added at room temperature, and the mixture was stirred at 90° C. for 1 hour and 30 minutes. The reaction mixture was cooled to room temperature, and then poured into ice, and then ethyl acetate was added to the mixture. The organic layer was separated, washed successively with water, saturated aqueous sodium hydrogencarbonate and saturated aqueous sodium chloride, and then dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The obtained solid matter was washed with a mixed solvent of diisopropyl ether and chloroform, and then dried under reduced pressure to obtain 4-((4-chloro-5-iodopyrimidin-2-yl)amino)benzonitrile (J12, 764 mg) as pale yellow solid.

reactant | 4-((4-hydroxy-5-iodopyrimidin-2-yl)amino)benzamide | 1.35 g | OC1=NC(=NC=C1I)NC1=CC=C(C(=O)N)C=C1 | C11H9IN4O2
reactant | phosphorus oxychloride | 14 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-((4-chloro-5-iodopyrimidin-2-yl)amino)benzonitrile | 764 mg | ClC1=NC(=NC=C1I)NC1=CC=C(C#N)C=C1 | C11H6ClIN4
